US07138425B2
b) 2-[3-(5-Phenylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-aminophenyl)-5-phenylbenzoxazole (40 mg, 0.14 mmol) and 1,2,4-benzenetricarboxylic anhydride (30 mg, 0.16 mmol) the title compound was obtained, 45 mg (70%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.38(d, 2H), 8.30(dt, 1H), 8.12(m, 2H), 7.9(d, 1H), 7.78(m, 5H), 7.51(t, 2H), 7.40(t, 1H). MS 459 m/z (M−H)−.

reactant | 2-(3-aminophenyl)-5-phenylbenzoxazole | 0.14 mmol, 40 mg | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H14N2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.16 mmol, 30 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Phenylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | C1(=CC=CC=C1)C=1C=CC2=C(N=C(O2)C=2C=C(C=CC2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C1 | C28H16N2O5
